US09120805B2
A suspension of 27.4 g (77.3 mmol) 1-[2-(4-bromo-phenyl)-2-oxo-ethyl]-4-fluoro-1H-pyrrole-2-carboxylic acid ethyl ester and 140 g (1.82 mol) ammonium acetate in 150 ml acetic acid is heated to 110° C. and the resulting solution is stirred for 18 hours at 110° C. The reaction mixture is allowed to cool to room temperature and added to 1.5 I water under stirring. The resulting precipitate is filtered off, washed with water and dried under vacuum. It is taken up in isopropyl acetate, heated to reflux and filtered while hot. The residue is washed with isopropyl acetate and dried under vacuum to afford 3-(4-bromo-phenyl)-7-fluoro-2H-pyrrolo[1,2-a]pyrazin-1-one as grey crystals; HPLC/MS 1.83 min (A), [M+H] 307/309;

reactant | 1-[2-(4-bromo-phenyl)-2-oxo-ethyl]-4-fluoro-1H-pyrrole-2-carboxylic acid ethyl ester | 77.3 mmol, 27.4 g | C(C)OC(=O)C=1N(C=C(C1)F)CC(=O)C1=CC=C(C=C1)Br | C15H13BrFNO3
reactant | ammonium acetate | 1.82 mol, 140 g | C(C)(=O)[O-].[NH4+]
reactant | water | O | H2O
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
product | 3-(4-bromo-phenyl)-7-fluoro-2H-pyrrolo[1,2-a]pyrazin-1-one | BrC1=CC=C(C=C1)C=1NC(C=2N(C1)C=C(C2)F)=O | C13H8BrFN2O
